US08710043B2
Step 5. 5-(Benzyloxy)-6-((tert-butoxycarbonyl)amino)nicotinic Acid
To a cooled (0° C.) stirred mixture of ethyl 5-(benzyloxy)-6-((tert-butoxycarbonyl)amino)nicotinate (1.2 g, 0.0032 mol) in EtOH:water (1:1, 12 mL), was added LiOH (154 mg, 0.0064 mol, Aldrich). The reaction mixture was stirred for 2 h at room temperature. After completion of the reaction (monitored by TLC, 100% EtOAc), the reaction mixture was quenched with 1N HCl at 0° C. temperature and extracted with EtOAc (2 mL×3). The combined organic layers were dried over anhydrous sodium sulfate and concentrated under reduced pressure to give the title compound. 1H NMR (400 MHz, DMSO-d6) δ: 13.24 (s, 1H), 9.18 (s, 1H), 8.45 (d, J=1.2 Hz, 1H), 7.80 (d, J=1.5, Hz, 1H), 7.53 (d, J=5.4 Hz, 2H), 7.41-7.34 (m, 2H), 5.24 (s, 2H), 1.38 (s, 9H).

reactant | ethyl 5-(benzyloxy)-6-((tert-butoxycarbonyl)amino)nicotinate | 0.0032 mol, 1.2 g | C(C1=CC=CC=C1)OC=1C(=NC=C(C(=O)OCC)C1)NC(=O)OC(C)(C)C | C20H24N2O5
reactant | LiOH | 0.0064 mol, 154 mg | [Li+].[OH-]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | EtOH water | 12 mL | CCO.O
product | 5-(Benzyloxy)-6-((tert-butoxycarbonyl)amino)nicotinic Acid | C(C1=CC=CC=C1)OC=1C(=NC=C(C(=O)O)C1)NC(=O)OC(C)(C)C | C18H20N2O5
